US03984563
2-(p-Chlorobenzoylimino)-1,3,3-trimethylindoline
By reacting 15 g. of the hydrochloride of 2-imino-1,3,3-trimethylindoline (m.p. 271°-273° C) in 100 ml. of pyridine with 16.30 g. of p-chlorobenzoylchloride at the room temperature for 5 hours, 15.2 g. of the title compound are obtained. B.p. 192° C/0.1 mmHg.

reactant | hydrochloride | Cl | ClH
reactant | 2-imino-1,3,3-trimethylindoline | N=C1N(C2=CC=CC=C2C1(C)C)C | C11H14N2
reactant | p-chlorobenzoylchloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-(p-Chlorobenzoylimino)-1,3,3-trimethylindoline | ClC1=CC=C(C(=O)N=C2N(C3=CC=CC=C3C2(C)C)C)C=C1 | C18H17ClN2O
